US09353104B2
Step A: 4-((4-methoxybenzyl)(prop-2-ynyl)amino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one (2)
To a solution of 4-(4-methoxybenzylamino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one (210 mg, 0.50 mmol) in THF (20 mL) was added NaH (30 mg, 0.75 mmol) at 0° C. After stirred for 10 min, 3-bromoprop-1-yne (118 mg, 1.00 mmol) was added. The mixture was stirred for 2 h at room temperature and then diluted with H2O (20 mL) and EtOAc (50 mL). The organic phase was washed with H2O and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel, eluting with PE/EA (4/1) to give the title compound as oil. ESI-MS: 461.2 (M+H)+. 1H NMR (400 MHz, MeOD) δ 7.95 (d, 1H), 7.21-7.18 (m, 3H), 7.07 (d, 1H), 6.78 (d, 2H), 6.19 (s, 1H), 4.50 (s, 2H), 4.10-3.94 (m, 4H), 3.75 (s, 3H), 3.74 (s, 3H), 3.72 (s, 3H), 2.61 (s, 1H), 2.00-1.96 (m, 1H), 1.68-1.63 (m, 1H), 1.11-1.00 (m, 1H), 0.95-0.97 (m, 1H).

reactant | 4-(4-methoxybenzylamino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one | 0.50 mmol, 210 mg | COC1=CC=C(CNC=2C(N(N=C(C2)OC[C@@H]2[C@H](C2)C2=NC=C(C=C2)OC)C)=O)C=C1 | C23H26N4O4
reactant | NaH | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | 3-bromoprop-1-yne | 1.00 mmol, 118 mg | BrCC#C | C3H3Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-((4-methoxybenzyl)(prop-2-ynyl)amino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one | COC1=CC=C(CN(C=2C(N(N=C(C2)OC[C@@H]2[C@H](C2)C2=NC=C(C=C2)OC)C)=O)CC#C)C=C1 | C26H28N4O4
